US07452993B2
Into an 8 mL screw cap vial were added 5-bromoisatoic anhydride (0.200 g, 0.826 mmol), anhydrous THF (5 mL), and morpholine (101 mg, 1.16 mmol). The vial was sealed and placed in a heat block at 60° C. for 1.5 h after which it was concentrated under vacuum. The crude product was triturated with Et2O/hexanes to afford 111 mg (94%) of (2-Amino-5-bromo-phenyl)-morpholin-4-yl-methanone as a tan solid. m/z 285/287 [MH+].

reactant | 5-bromoisatoic anhydride | 0.826 mmol, 0.200 g | BrC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4BrNO3
reactant | morpholine | 1.16 mmol, 101 mg | N1CCOCC1 | C4H9NO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (2-Amino-5-bromo-phenyl)-morpholin-4-yl-methanone | 111 mg, 94% | NC1=C(C=C(C=C1)Br)C(=O)N1CCOCC1 | C11H13BrN2O2
